US04307234
7-chloro-5-(2-chloroethyl)-1-cyclohexyl-3,4-dimethylpyrimido[1,6-a]indole;
5-(2-chloroethyl)-1-cyclohexyl-3,4-dimethyl-7-nitropyrimido[1,6-a]indole and 5-(2-chloroethyl)-1-cyclohexyl-3,4-dimethyl-6-trifluoromethylpyrimido[1,6-a]indole.

reactant | 5-(2-chloroethyl)-1-cyclohexyl-3,4-dimethyl-7-nitropyrimido[1,6-a]indole | ClCCC1=C2N(C3=CC=C(C=C13)[N+](=O)[O-])C(=NC(=C2C)C)C2CCCCC2 | C21H24ClN3O2
reactant | 5-(2-chloroethyl)-1-cyclohexyl-3,4-dimethyl-6-trifluoromethylpyrimido[1,6-a]indole | ClCCC1=C2N(C3=CC=CC(=C13)C(F)(F)F)C(=NC(=C2C)C)C2CCCCC2 | C22H24ClF3N2
product | 7-chloro-5-(2-chloroethyl)-1-cyclohexyl-3,4-dimethylpyrimido[1,6-a]indole | ClC=1C=C2C(=C3N(C2=CC1)C(=NC(=C3C)C)C3CCCCC3)CCCl | C21H24Cl2N2
